US04211723
Preparation of o-sulfobenzimide
A 20 g amount of the mixture of o-chlorosulfonylbenzoylchloride and dichlorotolylsultone was added dropwise to 40 ml of methanol with stirring at 15°-20° C. and the mixture was stirred and reacted for 1 hour. After the reaction, the reaction mixture was added dropwise to 35 g of 8% ammonia water with stirring at 20°-25° C., and the reaction mixture was kept for one night. Then, methanol was removed by distillation from the reaction mixture under a reduced pressure, and hydrochloric acid was added to the residual product to adjust pH to 1-2. The precipitated crystals were filtered and washed with water and dried, to obtain 14.3 g of white crystals of o-sulfobenzimide having a melting point of 227°-228° C. (yield of 93%).

reactant | o-chlorosulfonylbenzoylchloride | ClS(=O)(=O)C1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O3S
reactant | ammonia water | 35 g | O.N
solvent | methanol | 40 ml | CO | CH4O
product | o-sulfobenzimide | 14.3 g, yield of 93% | C1=CC=C2C(=C1)C(=O)NS2(=O)=O | C7H5NO3S
